Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Sternal fx s/p MVC
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is an ___ M who was transferred to ___ ___ in
the early AM from ___ where he was initially
taken following a traumatic MVC. Per report, Chest CT done at
___ demonstrated a comminuted sternal fracture in the
absence of other acute injuries. Additionally, it revealed an
incidental 5mm LUL lung nodule of which the patient was not
previously aware. 
 
Past Medical History:
Diabetes Mellitus, non-insulin dependent
AMI ___ (stent placed ___
Hypothyroidism
BPH
HTN, HLD
 
Social History:
___
Family History:
brother with asthma
 
Physical Exam:
GEN: AA&O x 3, NAD, calm, cooperative.
HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI, 
PERRL.
CHEST: Clear to auscultation bilaterally, (-) cyanosis, tender 
to palpation, stable
ABDOMEN: (+) BS x 4 quadrants, soft, NT/ND
EXTREMITIES: Warm, well perfused, pulses palpable, (-) edema
 
Pertinent Results:
___ 06:30PM BLOOD WBC-9.6 RBC-4.37* Hgb-12.8* Hct-39.1* 
MCV-90 MCH-29.3 MCHC-32.7 RDW-13.4 RDWSD-43.9 Plt ___
___ 06:30PM BLOOD UreaN-14 Creat-1.___ was admitted as a transfer from ___ for 
management of his injuries sustained in an ___. On arrival by 
EMS, he was taken to the trauma bay and underwent primary and 
secondary survey notable for sternal fracture. He was then 
admitted to rule out additional injury/follow up incidental 
findings. 

His outside images were re-evaluated by radiology, and were 
notable for a LUL 5mm nodule with associated  mediastinal 
lymphadenopathy. Thoracic surgery was consulted for work 
up/outpatient follow up.

Of note, his PCP was contacted, made aware of this incidental 
finding, and appropriate follow up was scheduled. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Janumet (sitagliptin-metformin) 100mg - 1000mg  oral DAILY 
4. MetFORMIN (Glucophage) 500 mg PO DAILY 
5. GlipiZIDE 5 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. Pravastatin 10 mg PO QPM 
8. Aspirin 81 mg PO DAILY 
9. Finasteride 0.5 mg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Losartan Potassium 25 mg PO DAILY 
3. Pravastatin 10 mg PO QPM 
4. Tamsulosin 0.4 mg PO QHS 
5. Aspirin 81 mg PO DAILY 
6. Finasteride 0.5 mg PO DAILY 
7. GlipiZIDE 5 mg PO DAILY 
8. Janumet (sitagliptin-metformin) 100mg - 1000mg  oral DAILY 
9. MetFORMIN (Glucophage) 500 mg PO DAILY 
10. Acetaminophen 325-650 mg PO Q6H:PRN pain 
11. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
___ - sternal fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted after sustaining a sternal fracture from your 
motor vehicle collision.

* Your injury caused sternal fracture which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of chest wall fractures.  In order 
to decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___